US07700552B2
4-methoxy-2-amino-benzamide (46)
A suspension of 4-methoxy-2-nitro-benzamide (6.9 g, 35.1 mmol) in EtOH (200 ml) was hydrogenated with Raney-Ni (4.0 g) for two days at room temperature and 50 psi. The catalyst was filtered of and washed with DMF. The solvent was evaporated under reduced pressure. Yield: 5.6 g, 95%.

reactant | 4-methoxy-2-nitro-benzamide | 35.1 mmol, 6.9 g | COC1=CC(=C(C(=O)N)C=C1)[N+](=O)[O-] | C8H8N2O4
solvent | EtOH | 200 ml | CCO | C2H6O
catalyst | Ni | 4.0 g | [Ni] | Ni
product | 4-methoxy-2-amino-benzamide | COC1=CC(=C(C(=O)N)C=C1)N | C8H10N2O2
